US05480908
A mixture of 4.20 g of (R)-2-Amino-1-(3,4-dimethoxyphenyl)propane and 3.11 g of N-(trimethylsilyl)acetamide in 20 ml of dimethylsulfoxide is stirred at room temperature for 1 hour. A solution of 4.05 g of (1-naphthyl)glycidyl ether in 3 ml of dimethylsulfoxide is added to the above mixture and the resulting mixture is heated at 65° C. to 70° C. for 20 hours, cooled, poured into a mixture of ice and concentrated hydrochloric acid, stirred, basified with 10N sodium hydroxide and extracted with ethyl acetate. The ethyl acetate extract is washed with brine, dried, filtered and evaporated to yield 1-[(3,4-dimethoxyphenyl)-2-propyl]amino-3-(1- naphthyloxy)propan-2-ol.

reactant | (R)-2-Amino-1-(3,4-dimethoxyphenyl)propane | 4.20 g | N[C@@H](CC1=CC(=C(C=C1)OC)OC)C | C11H17NO2
reactant | N-(trimethylsilyl)acetamide | 3.11 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | (1-naphthyl)glycidyl ether | 4.05 g | C1(=CC=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 1-[(3,4-dimethoxyphenyl)-2-propyl]amino-3-(1- naphthyloxy)propan-2-ol | COC=1C=C(C=CC1OC)CC(C)NCC(COC1=CC=CC2=CC=CC=C12)O | C24H29NO4
